US06455667B1
3-methyl resorcinol;
3-ethyl resorcinol, 3-propyl resorcinol, 3-butyl resorcinol, 3-t-butyl resorcinol, 3-phenyl resorcinol, 3-cumyl resorcinol, 2,3,4,6-tetrafluroresorcinol, and 2,3,4,6-tetrabromoresorcinol;

reactant | 3-ethyl resorcinol | C(C)C1(CC(O)=CC=C1)O | C8H12O2
reactant | 3-propyl resorcinol | C(CC)C1(CC(O)=CC=C1)O | C9H14O2
reactant | 3-butyl resorcinol | C(CCC)C1(CC(O)=CC=C1)O | C10H16O2
reactant | 3-t-butyl resorcinol | C(C)(C)(C)C1(CC(O)=CC=C1)O | C10H16O2
reactant | 3-phenyl resorcinol | C1(=CC=CC=C1)C1(CC(O)=CC=C1)O | C12H12O2
reactant | 3-cumyl resorcinol | C(C)(C)(C1=CC=CC=C1)C1(CC(O)=CC=C1)O | C15H18O2
reactant | 2,3,4,6-tetrafluroresorcinol | FC1C(O)=C(C=C(C1(O)F)F)F | C6H4F4O2
reactant | 2,3,4,6-tetrabromoresorcinol | BrC1C(O)=C(C=C(C1(O)Br)Br)Br | C6H4Br4O2
product | 3-methyl resorcinol | CC1(CC(O)=CC=C1)O | C7H10O2
